US08168667B2
1-(3,4-dichlorophenyl)-4-(3-hydroxyphenyl)-3-methylimidazolidine-2,5-dione
10.5 mL of boron trifluoride/dimethyl sulphide complex are added dropwise, at ambient temperature, to 3.7 g of a solution of 3-(3,4-dichlorophenyl)-5-(3-methoxyphenyl)-1-methylimidazolidine-2,4-dione in 60 mL of dichloromethane in a flask equipped with a magnetic stirrer and a nitrogen intake. After 2 hours at ambient temperature, the mixture is poured over a saturated aqueous sodium bicarbonate solution and subjected to extraction with ethyl acetate. The mixture is dried over magnesium sulphate and concentrated. The residue is crystallised in isopropyl ether (white solid; m=3 g; Yd=84%).

reactant | 3-(3,4-dichlorophenyl)-5-(3-methoxyphenyl)-1-methylimidazolidine-2,4-dione | ClC=1C=C(C=CC1Cl)N1C(N(C(C1=O)C1=CC(=CC=C1)OC)C)=O | C17H14Cl2N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 1-(3,4-dichlorophenyl)-4-(3-hydroxyphenyl)-3-methylimidazolidine-2,5-dione | ClC=1C=C(C=CC1Cl)N1C(N(C(C1=O)C1=CC(=CC=C1)O)C)=O | C16H12Cl2N2O3
